US07482456B2
Step 2: 2-(benzyloxy)-3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridine
To a solution of benzyl alcohol (1.5 eq) in DMF (0.4M) was added NaH (1.5 eq, 60%) followed by 2-chloro-3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridine (1 eq) in DMF (0.5M) after 30 min.). The reaction was stirred at 20° C. for 1 h, diluted with Et2O and water. The organic extracts were washed with brine, dried over MgSO4, filtered and concentrated. Flash chromatography (Hex:EtOAc; 80:20) afforded the title compound.

reactant | benzyl alcohol | 1.5 eq | C(C1=CC=CC=C1)O | C7H8O
reactant | NaH | 1.5 eq | [H-].[Na+]
reactant | 2-chloro-3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridine | 1 eq | ClC1=NC=CC=C1C1=NC(=NO1)C | C8H6ClN3O
solvent | DMF | 0.4M | CN(C)C=O | C3H7NO
solvent | DMF | 0.5M | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-(benzyloxy)-3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridine | C(C1=CC=CC=C1)OC1=NC=CC=C1C1=NC(=NO1)C | C15H13N3O2
